US09233933B2
Titanium tetrachloride (11.4 mL, 104.1 mmol) in dichloromethane (28 mL) was added dropwise to a flask containing tetrahydrofuran (205 mL) under a nitrogen atmosphere, cooled in icebath. Then 1-(3,4-difluorophenyl)-2,2-difluoro-ethanone (10 g, 52 mmol) and dimethyl malonate (5.93 mL, 52 mmol) were added both at once. The resulting mixture was stirred under nitrogen atmosphere for 60 minutes while cooling was continued. Then, pyridine (16.8 mL, 208 mmol) in tetrahydrofuran (37 mL) was added to the mixture and this was allowed to warm to room temperature and stirred overnight. Next, distilled water (40 mL) and diethylether (40 mL) were added to the mixture. The layers were separated and the aqueous layer was extracted with diethylether (2×40 mL). The combined organics were washed with brine (60 mL), NaHCO3 (60 mL) (aq/sat) and again with brine (60 mL). The organic layer was dried on MgSO4, filtered and concentrated under reduced pressure yielding dimethyl 2-(1-(3,4-difluorophenyl)-2,2-difluoroethylidene)malonate (15.6 g) as a clear oil. Dimethyl 2-(1-(3,4-difluorophenyl)-2,2-difluoroethylidene)malonate (5 g) was dissolved in 1,4-dioxane (25 mL) and treated with 3,5-difluoropyridine-2-carboximidamide (3.1 g, 19.6 mmol). The resulting mixture was stirred at 40° C. overnight. The mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (ethyl acetate-heptane 0:100 to 50:50) yielding methyl 4-(difluoromethyl)-4-(3,4-difluorophenyl)-2-(3,5-difluoropyridin-2-yl)-6-oxo-1,4,5,6-tetrahydropyrimidine-5-carboxylate (5.45 g) as a yellow solid which was used as such. Methyl 4-(difluoromethyl)-4-(3,4-difluorophenyl)-2-(3,5-difluoropyridin-2-yl)-6-oxo-1,4,5,6-tetrahydropyrimidine-5-carboxylate was treated with phosphorus oxychloride (10 mL, 107.6 mmol) and the mixture was stirred at reflux for 2 hours.

reactant | 1-(3,4-difluorophenyl)-2,2-difluoro-ethanone | 52 mmol, 10 g | FC=1C=C(C=CC1F)C(C(F)F)=O | C8H4F4O
reactant | dimethyl malonate | 52 mmol, 5.93 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | pyridine | 208 mmol, 16.8 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 37 mL | O1CCCC1 | C4H8O
catalyst | Titanium tetrachloride | 104.1 mmol, 11.4 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | 205 mL | O1CCCC1 | C4H8O
product | dimethyl 2-(1-(3,4-difluorophenyl)-2,2-difluoroethylidene)malonate | 15.6 g | FC=1C=C(C=CC1F)C(C(F)F)=C(C(=O)OC)C(=O)OC | C13H10F4O4
